US07402606B2
To 200 mg (1.3 mmol) of (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride and 0.25 mL (1.3 mmol) of N,N-diisopropylethylamine in 4 mL of dichloromethane was added dropwise 0.19 mL (1.3 mmol) of 1-isocyanato-4-(trifluoromethyl)benzene. The reaction mixture was stirred at room temperature for 18 h. It was then diluted with ethyl acetate, and the resulting solution was washed with 1 N hydrochloric acid and brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford 390 mg (quantitative yield) of (4S)-4-hydroxy-3,3-dimethyl-N-[4-(trifluoromethyl)phenyl]-1-pyrrolidinecarboxamide. 1H NMR (300 MHz, DMSO-d6) δ 8.45 (s, 1H), 7.73 (d, J=9 Hz, 2H), 7.54 (d, J=9 Hz, 2H), 5.08 (s, 1H), 3.74-3.55 (m, 2H), 3.27-3.09 (m, 3H), 0.97 (s, 3H), 0.95 (s, 3H). Cl-LCMS m/z 303 (M+H).

reactant | (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride | 1.3 mmol, 200 mg | Cl.CC1([C@@H](CNC1)O)C
reactant | N,N-diisopropylethylamine | 1.3 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-isocyanato-4-(trifluoromethyl)benzene | 1.3 mmol, 0.19 mL | N(=C=O)C1=CC=C(C=C1)C(F)(F)F | C8H4F3NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S)-4-hydroxy-3,3-dimethyl-N-[4-(trifluoromethyl)phenyl]-1-pyrrolidinecarboxamide | 390 mg, quantitative yield | O[C@H]1C(CN(C1)C(=O)NC1=CC=C(C=C1)C(F)(F)F)(C)C | C14H17F3N2O2
